US07214673B2
(S)-2-Ethyl-10-{3-[2-(3-methoxy-phenyl)-ethyl]-piperazin-1-yl}-4H-3-thia-1,4,9-triaza-benzo[f]azulene
By using a method similar to the Example 501, using a suspension of 2-ethyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo{f}azulene-10-thione (3.4 g, 13.0 mmol) in 35 mL CH2Cl2, add methyl trifluoromethanesulfonate (4.2 g, 26.0 mmol) overnight, LC-MS showed still had 50% of starting material, added another 0.1 mL of methyl trifluoromethanesulfonate, and heated to 35° C. for 1 h. Concentrate the reaction mixture under reduced pressure, give a red-brown solid. Dissolve the solid in 32.5 mL of pyridine to make 0.4 M of solution. Take 6.25 mL of the solution (2.5 mmol), mix with (S)-2-(3-methoxy-phenyl)-piperazine (550 mg, 2.5 mmol) and heat to 100° C. for 3 hours. Cool the reaction to RT, concentrate down to a residue, which purify by flash chromatography on silica gel, gradient 100% CH2Cl2 to 100% mixed solvent of (CH2Cl2: 2N NH3/MeOH=20:1) over 55 min. give 306 mg of the title compound. Mass spectrum (APCI) (m/e): C25H29N5OS, Cacl. Mass: 447.21, Found: 448.2 (M+1); 1H NMR (300 MHz, CDCl3) δ ppm: 7.21–7.16 (m, 1H), 7.08–6.96 (m, 2H), 6.91–6.86 (m, 1H), 6.80–6.71 (m, 3H), 6.65–6.64 (m, 1H), 5.40 (br, 1H), 4.35–4.25 (m, 2H), 3.78 (s, 3H), 3.16–2.69 (m, 10H), 1.79–1.76 (m, 2H), 1.29 (t, 3H, J=7.7 Hz).

reactant | 2-ethyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo{f}azulene-10-thione | 13.0 mmol, 3.4 g | C(C)C1=NC=2C(NC3=C(NC2S1)C=CC=C3)=S | C12H11N3S2
reactant | methyl trifluoromethanesulfonate | 26.0 mmol, 4.2 g | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | methyl trifluoromethanesulfonate | 0.1 mL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | (S)-2-(3-methoxy-phenyl)-piperazine | 2.5 mmol, 550 mg | COC=1C=C(C=CC1)[C@@H]1NCCNC1 | C11H16N2O
reactant | pyridine | 32.5 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Ethyl-10-{3-[2-(3-methoxy-phenyl)-ethyl]-piperazin-1-yl}-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 306 mg | C(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC(=CC=C3)OC | C25H29N5OS
